US04209515
224 ml of a 6 N solution of hydrogen chloride in methanol is added to a solution of 112.2 g (0.299 mole) of 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid in 1120 ml of methanol, and the whole is refluxed for 21 hours. There is then distilled off 800 ml of methanol at normal pressure, and the concentrated solution is allowed to stand for 18 hours at room temperature. The product that has crystallised out is filtered off under suction and washed with cold methanol and hexane. After drying in vacuo, there is obtained 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester, m.p. 132°-134°.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.299 mole, 112.2 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)O | C17H11Cl2N3O3
reactant | methanol | CO | CH4O
reactant | methanol | 1120 ml | CO | CH4O
product | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)CCl)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C18H13Cl2N3O3
